US04112095
Preparation of 6-(m-chlorophenyl)-8-methyl-1,2,4-triazolo-[4,3-b]pyridazine
A mixture of 2.0 g. of 3-chloro-6-(m-chlorophenyl)-4-methylpyridazine, 50 ml. of n-butanol and 1.08 g. of formylhydrazine is refluxed for 18 hrs. The mixture is concentrated to dryness under vacuum and the residue dissolved in methylene chloride. The solution is passed through a short column of hydrous magnesium silicate. The eluent is refluxed while hexane is added gradually until crystals separated. Cooling and filtering gives 1.20 g. of crystals, m.p. 173°-176° C. The crystals in methylene chloride are passed through a short column of hydrous magnesium silicate and the eluent concentrated with the addition of hexane to give 0.83 g. of crystals, m.p. 181°-182° C.

reactant | 3-chloro-6-(m-chlorophenyl)-4-methylpyridazine | ClC=1N=NC(=CC1C)C1=CC(=CC=C1)Cl | C11H8Cl2N2
reactant | n-butanol | C(CCC)O | C4H10O
reactant | formylhydrazine | C(=O)NN | CH4N2O
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(m-chlorophenyl)-8-methyl-1,2,4-triazolo-[4,3-b]pyridazine | ClC=1C=C(C=CC1)C=1C=C(C=2N(N1)C=NN2)C | C12H9ClN4
